US08193199B2
Prepared according to Procedure E using 8-chloro-3-(chloromethyl)-2-(2-chloro-phenyl)quinoline (0.685 g, 2.12 mmol) and sodium azide (1.10 g, 17 mmol, 8 eq) in DMF (10 mL). The resulting intermediate was submitted to trimethyl phosphine (1.0M) in THF (2.5 mL, 2.5 mmol, 1.2 eq) in THF (8 mL) and water (2 mL). (8-Chloro-2-(2-chlorophenyl)quinolin-3-yl)methanamine was obtained as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.62 (1H, s), 8.05 (1H, dd, J=8.6, 1.2 Hz), 8.00 (1H, dd, J=7.4, 1.2 Hz), 7.63-7.73 (2H, m), 7.47-7.62 (3H, m), 3.90 (1H, s), 3.75 (1H, s) Mass Spectrum (ESI) m/e=303.1 and 305.0 (M+1)

reactant | 8-chloro-3-(chloromethyl)-2-(2-chloro-phenyl)quinoline | 2.12 mmol, 0.685 g | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)Cl)CCl | C16H10Cl3N
reactant | sodium azide | 17 mmol, 1.10 g, 8 eq | [N-]=[N+]=[N-].[Na+]
reactant | trimethyl phosphine | 1.0M | CP(C)C | C3H9P
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | THF | 2.5 mmol, 2.5 mL, 1.2 eq | C1CCOC1 | C4H8O
product | (8-Chloro-2-(2-chlorophenyl)quinolin-3-yl)methanamine | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)Cl)CN | C16H12Cl2N2
